US04889854
13.9 g of 7-nitro-1(2H)-phthalazinone and 16.3 g of Lawesson reagent in 170 ml of acetonitrile are heated under reflux for 45 minutes. The reaction mixture is filtered while hot. The filtrate is cooled in an ice-bath and the crystals obtained are removed by filtration under suction. After drying in vacuo and recrystallization there is obtained 7-nitro-1(2H)-phthalazinethione as yellow crystals of m.p. 233+-234° (methanol/acetonitrile).

reactant | 7-nitro-1(2H)-phthalazinone | 13.9 g | [N+](=O)([O-])C1=CC=C2C=NNC(C2=C1)=O | C8H5N3O3
reactant | Lawesson reagent | 16.3 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | acetonitrile | 170 ml | C(C)#N | C2H3N
product | 7-nitro-1(2H)-phthalazinethione | [N+](=O)([O-])C1=CC=C2C=NNC(C2=C1)=S | C8H5N3O2S
